US07893058B2
Step 4: 4-{8-[4-(4-Dimethylaminomethyl-[1,2,3]triazol-1-yl)-phenylamino]-imidazo[1,2-a]pyrazin-5-yl}-benzamide
In the same way as described for Compound 178, step 4, using (5-bromo-imidazo[1,2-a]pyrazin-8-yl)-[4-(4-dimethylaminomethyl-[1,2,3]triazol-1-yl)-phenyl]-amine (63 mg, 0.152 mmol), 4-(aminocarbonyl)phenylboronic acid (50.3 mg, 0.305 mmol) 1.5 M Na2CO3 (0.813 mL, 1.22 mmol) and Pd(PPh3)4 (44.0 mg, 0.0381 mmol) in (2:1) DMF-dioxane (1.8 m1L). Purification of the crude material by Isolute FlashSilicaII Cartridge chromatography eluting with 95:5 DCM:NH3 (7M in MeOH) followed by reverse phase preparative HPLC, affords the title compound as a white solid (4.7 mg, 7%). LCMS: Rt 1.92 min (96%) m/z (APCI) 455 (M+H)+; 1H-NMR (400 MHz, d6-DMSO) δ (ppm) 2.24 (6H, s), 3.61 (2H, s), 7.51 (1H, br s), 7.64 (1H, s), 7.80 (1H, s), 7.85-7.91 (4H, m), 8.08-8.12 (3H), m), 8.16 (1H, br s), 8.36 (2H, d), 8.66 (1H, s), 10.09 (1H, s).

reactant | (5-bromo-imidazo[1,2-a]pyrazin-8-yl)-[4-(4-dimethylaminomethyl-[1,2,3]triazol-1-yl)-phenyl]-amine | 0.152 mmol, 63 mg | BrC1=CN=C(C=2N1C=CN2)NC2=CC=C(C=C2)N2N=NC(=C2)CN(C)C | C17H17BrN8
reactant | 4-(aminocarbonyl)phenylboronic acid | 0.305 mmol, 1.5 M, 0.813 mL, 50.3 mg | NC(=O)C1=CC=C(C=C1)B(O)O | C7H8BNO3
solvent | DMF dioxane | CN(C)C=O.O1CCOCC1
catalyst | Pd(PPh3)4 | 0.0381 mmol, 44.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-{8-[4-(4-Dimethylaminomethyl-[1,2,3]triazol-1-yl)-phenylamino]-imidazo[1,2-a]pyrazin-5-yl}-benzamide | 4.7 mg, 7% | CN(C)CC=1N=NN(C1)C1=CC=C(C=C1)NC=1C=2N(C(=CN1)C1=CC=C(C(=O)N)C=C1)C=CN2 | C24H23N9O
